US08258141B2
[Bis-(4-methoxy-phenyl)-methyl]-{2-chloro-9-[(1R,4S)-4-(di-Boc-amino)-cyclopent-2-enyl]-9H-purin-6-yl}-amine
Carbonic acid (1S,4R)-4-(6-{[bis-(4-methoxy-phenyl)-methyl]-amino}-2-chloro-purin-9-yl)-cyclopent-2-enyl ester ethyl ester (2.00 g, 3.64 mmol), di-t-butyl iminodicarboxylate (0.87 g, 4.00 mmol) and triphenylphosphine (0.14 g, 0.55 mmol) are placed in an oven-dried flask under an atmosphere of argon. Dry deoxygenated THF (20 ml) is added followed by tetrakis(triphenylphosphine)palladium(0) (0.21 g, 0.18 mmol) and the mixture is stirred at room temperature. The reaction is shown to be complete by LCMS after 3 hours. The solvent is removed in vacuo and the title compound is obtained after purification by flash column chromatography (silica, iso-hexane/ethyl acetate 4:1). 1H nmr (CDCl3, 400 MHz); 8.20(s, 1H), 7.25(d, 4H), 6.85(d, 4H), 6.60(m, 1H), 6.35(m, 1H), 6.10(m, 1H), 5.80(m, 1H), 5.65(m, 1H), 5.35(m, 1H), 3.80(s, 6H), 3.15(m, 1H), 2.10(m, 1H), 1.55(s, 18H).

reactant | Carbonic acid (1S,4R)-4-(6-{[bis-(4-methoxy-phenyl)-methyl]-amino}-2-chloro-purin-9-yl)-cyclopent-2-enyl ester ethyl ester | 3.64 mmol, 2.00 g | C(C)OC(O[C@@H]1C=C[C@@H](C1)N1C2=NC(=NC(=C2N=C1)NC(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)Cl)=O | C28H28ClN5O5
reactant | di-t-butyl iminodicarboxylate | 4.00 mmol, 0.87 g | N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H19NO4
reactant | triphenylphosphine | 0.55 mmol, 0.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.18 mmol, 0.21 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [Bis-(4-methoxy-phenyl)-methyl]-{2-chloro-9-[(1R,4S)-4-(di-Boc-amino)-cyclopent-2-enyl]-9H-purin-6-yl}-amine | COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OC)NC1=C2N=CN(C2=NC(=N1)Cl)[C@H]1C=C[C@H](C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C35H41ClN6O6
